US05925624
1-Deoxy-1-[6-[(2,2-diphenylethyl)amino]-2-[[2-(1H-imidazol4-yl)ethyl]amino]-9H-purin-9-yl]-N-ethyl-β-D-ribofuranuronamide hydrochloride salt
A solution of 1-[2-chloro-6-[(2,2-diphenylethyl)amino]-9H-purin-9-yl]-1-deoxy-N-ethyl-β-D-ribofuranuronamide (0.155 g,0.296 mmol) and histamine (0.22 g) in dimethylsulphoxide (1.5 ml) was heated at 120° C. for 16h. The mixture was cooled and diluted with ethyl acetate (50 ml) then washed with water (50 ml). The aqueous phase was extracted with ethyl acetate (50 ml) and the combined organic phase was washed with water (50 ml), dried (MgSO4) and evaporated to leave a solid which was treated with 2N hydrochloric acid (2 ml) in methanol (30 ml) and the solution was evaporated to leave the title compound (0.15 g,80%) as a solid. MH+ =598, nmr(δ,DMSO-d6) includes 1.02(t,3H), 3.0(m,2H), 3.13(m,2H), 3.7(m,2H), 4.2(m,2H), 4.85(s,1H), 4.55(m,3H), 5.9(d,1H), 7.1-7.6(m,12H), 8.45(s,1H), 9.05(s,1H), 14.3(m,1H).

reactant | 1-[2-chloro-6-[(2,2-diphenylethyl)amino]-9H-purin-9-yl]-1-deoxy-N-ethyl-β-D-ribofuranuronamide | 0.296 mmol, 0.155 g | ClC1=NC(=C2N=CN(C2=N1)[C@H]1[C@H](O)[C@H](O)[C@H](O1)C(=O)NCC)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C26H27ClN6O4
reactant | histamine | 0.22 g | NCCC1=CNC=N1 | C5H9N3
reactant | hydrochloric acid | 2N, 2 ml | Cl | ClH
solvent | dimethylsulphoxide | 1.5 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 30 ml | CO | CH4O
product | 1-Deoxy-1-[6-[(2,2-diphenylethyl)amino]-2-[[2-(1H-imidazol4-yl)ethyl]amino]-9H-purin-9-yl]-N-ethyl-β-D-ribofuranuronamide hydrochloride salt | 0.15 g, 80% | Cl.C1(=CC=CC=C1)C(CNC1=C2N=CN(C2=NC(=N1)NCCC=1N=CNC1)[C@H]1[C@H](O)[C@H](O)[C@H](O1)C(=O)NCC)C1=CC=CC=C1 | InChI=1S/C31H35N9O4.ClH/c1-2-33-29(43)26-24(41)25(42)30(44-26)40-18-37-23-27(38-31(39-28(23)40)34-14-13-21-15-32-17-36-21)35-16-22(19-9-5-3-6-10-19)20-11-7-4-8-12-20;/h3-12,15,17-18,22,24-26,30,41-42H,2,13-14,16H2,1H3,(H,32,36)(H,33,43)(H2,34,35,38,39);1H/t24-,25+,26-,30+;/m0./s1
